US08304036B2
A mixture of 34.8 g (0.14 mol) of 2-iodoselenophene, 32.8 g (0.16 mol) of 4-ethoxy-2,3-difluorophenylboronic acid, 8.10 g (77.01 mmol) of tetrakis -(triphenylphosphine)palladium(0) and 300 ml of 2 N sodium carbonate soln. in 800 ml of toluene/ethanol (1:1) is heated under reflux for 23 h. The mixture is diluted with MTBE and washed with water. The aqueous phase is extracted with MTBE, and the combined organic phases are washed with 2 N hydrochloric acid and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:EtOAc=15:1-10:1→5:1). Further purification is carried out by recrystallisation from n-heptane; 2-(4-ethoxy-2,3-difluorophenyl)selenophene is obtained as a beige solid.

reactant | 2-iodoselenophene | 0.14 mol, 34.8 g | IC=1[Se]C=CC1 | C4H3ISe
reactant | 4-ethoxy-2,3-difluorophenylboronic acid | 0.16 mol, 32.8 g | C(C)OC1=C(C(=C(C=C1)B(O)O)F)F | C8H9BF2O3
reactant | sodium carbonate | 2 N, 300 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 800 ml | C1(=CC=CC=C1)C.C(C)O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 2-(4-ethoxy-2,3-difluorophenyl)selenophene | C(C)OC1=C(C(=C(C=C1)C=1[Se]C=CC1)F)F | C12H10F2OSe
